US08809371B2
Tetrabutylammonium fluoride (1M tetrahydrofuran solution: 1 ml) was added to a tetrahydrofuran (2 ml) solution containing 3-bromo-5-(1-(triisopropylsilyl)-1H-pyrrol-3-yl)pyridine (71 mg), followed by stirring at room temperature for 2 hours. The reaction solution was poured into water, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Then the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=5:1 to 2:1), and a white solid of 3-bromo-5-(1H-pyrrol-3-yl)pyridine (28 mg) was thus obtained.

reactant | Tetrabutylammonium fluoride | 1M, 1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | 3-bromo-5-(1-(triisopropylsilyl)-1H-pyrrol-3-yl)pyridine | 71 mg | BrC=1C=NC=C(C1)C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C18H27BrN2Si
solvent | water | O | H2O
product | 3-bromo-5-(1H-pyrrol-3-yl)pyridine | 28 mg | BrC=1C=NC=C(C1)C1=CNC=C1 | C9H7BrN2
